US07759376B2
Step 2. Preparation of methyl N-[(3-methoxy-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate
3-Methoxy-4′-nitrobiphenyl-4-carboxylic acid (0.28 g, 1.0 mmol) was dissolved in methylene chloride (10 mL), and then oxalyl chloride (0.13 mL, 1.51 mmol) was added, followed by one drop of DMF. The resulting mixture was stirred at 50° C. for 45 min and then concentrated under reduced pressure. The residue was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cold mixture of L-valine methyl ester hydrochloride (0.21 g, 1.2 mmol), methylene chloride (10 mL), and triethylamine (0.57 mL, 4.1 mmol). The resulting solution was stirred at rt for 18 h. The mixture was concentrated under reduced pressure, and the residue was purified by column chromatography (33% EtOAc in hexanes). LC/MS m/z 387.0 (MH+), retention time 3.40 min. 1H NMR (400 MHz, CD2Cl2) δ 1.05 (t, 6H), 2.32-2.39 (m, 1H), 3.78 (s, 3H), 4.10 (s, 3H), 4.71-4.78 (m, 1H), 7.22 (s, 1H), 7.38 (d, 1H), 7.80 (d, 2H), 8.22-8.37 (m, 4H).

reactant | 3-Methoxy-4′-nitrobiphenyl-4-carboxylic acid | 1.0 mmol, 0.28 g | COC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H11NO5
reactant | oxalyl chloride | 1.51 mmol, 0.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | L-valine methyl ester hydrochloride | 1.2 mmol, 0.21 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl N-[(3-methoxy-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate | COC=1C=C(C=CC1C(=O)N[C@@H](C(C)C)C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O6
